US06828276B2
1.150 g (3.20 mmol) of 2,4-dibromo-3-(cyclobutylmethoxy)benzoic acid, 0.39 g (3.50 mmol) of cyclohexane-1,3-dione, 0.618 g (3.20 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride and 0.004 g of dimethylaminopyridine were stirred for 10 hours at room temperature in 30 ml of methylene chloride. The mixture was subsequently diluted with methylene chloride and washed with 0.5 N HCl, with water, with saturated NaHCO3 solution and again with water. After the combined organic phases had been dried over Na2SO4 and evaporated completely on a rotary evaporator, 3-oxo-1-cyclohexenyl 2,4 dibromo-3-cyclobutylmethoxybenzoate was obtained in the form of a yellow resin.

reactant | 2,4-dibromo-3-(cyclobutylmethoxy)benzoic acid | 3.20 mmol, 1.150 g | BrC1=C(C(=O)O)C=CC(=C1OCC1CCC1)Br | C12H12Br2O3
reactant | cyclohexane-1,3-dione | 3.50 mmol, 0.39 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 3.20 mmol, 0.618 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylaminopyridine | 0.004 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-oxo-1-cyclohexenyl 2,4 dibromo-3-cyclobutylmethoxybenzoate | BrC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1OCC1CCC1)Br | C18H18Br2O4
